US07435837B2
(−)-{[7-(4-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}amine
The title compound was prepared (0.224 g, 74%) following the general procedure of Example 158 as a white solid, hydrochloride salt from (−)-benzyl {[7-(4-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate (0.40 g, 0.981 mmol) and iodotrimethylsilane (0.785 g, 3.92 mmol). [α]D25=−13.0 (c 10.0 in methanol); mp 190-191° C.

reactant | (−)-benzyl {[7-(4-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 0.981 mmol, 0.40 g | ClC1=CC(=C(C=C1)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O)C | C24H22ClNO3
reactant | iodotrimethylsilane | 3.92 mmol, 0.785 g | I[Si](C)(C)C | C3H9ISi
solvent | methanol | CO | CH4O
product | (−)-{[7-(4-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}amine | ClC1=CC(=C(C=C1)C1=CC=CC=2CC(OC21)CN)C | C16H16ClNO
